US05192749
Liposome Formulation With 4'-Azidomethylthymidine 5'-monophosohate
Sufficient water is added to 100 g of egg-yolk phospholipids to bring the total volume to 1 liter. The mixture is stirred with a homomixer. Then, the mixture is homogenized with an emulsifier under a pressure of 300 kg/cm2 for 30 minutes, whereby an aqueous phospholipid dispersion is obtained 4'-Azidomethylthymidine 5'-monophosphate (20 g) and sodium chloride (18 g) are dissolved in enough water to bring the total volume to 1 liter. The aqueous phospholipid dispersion (850 mL) and the 4'-azidomethylthymidine 5'-monophosphate solution (850 mL) are mixed. The aqueous dispersion thus obtained is filtered through a membrane filter (pore size 0.45 m in diameter). The filtrate is sterilized at 120° C. for 20 minutes and then allowed to stand at -20° C. for 20 hours in a freezer. The frozen dispersion thus obtained is thawed by allowing it to stand at room temperature. An aqueous suspension of 4'-azidomethylthymidine 5'-monophosphate entrapped in phospholipid spherules is thereby obtained.

reactant | 4'-azidomethylthymidine 5'-monophosphate | 850 mL | P(=O)(O)(O)OC[C@@]1([C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)CN=[N+]=[N-] | C11H16N5O8P
solvent | water | O | H2O
product | 4'-Azidomethylthymidine | N(=[N+]=[N-])C[C@]1([C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)CO | C11H15N5O5
